US05661159
A mixture of 7-chloro-2-(2,4-diformylphenoxymethyl)-quinoline (5.7 g) and pyridine hydrochloride (11.4 g) in toluene (140 ml) was stirred under reflux for 2 hours. After being cooled, the appeared crystals were collected, washed with toluene and water. The resulting crystals were washed with ethanol (100 ml) and dried to give 7-chloro-2-(5-formylbenzofuran-2-yl)quinoline (4.67 g).

reactant | 7-chloro-2-(2,4-diformylphenoxymethyl)-quinoline | 5.7 g | ClC1=CC=C2C=CC(=NC2=C1)COC1=C(C=C(C=C1)C=O)C=O | C18H12ClNO3
reactant | pyridine hydrochloride | 11.4 g | Cl.N1=CC=CC=C1
solvent | toluene | 140 ml | C1(=CC=CC=C1)C | C7H8
product | 7-chloro-2-(5-formylbenzofuran-2-yl)quinoline | 4.67 g | ClC1=CC=C2C=CC(=NC2=C1)C=1OC2=C(C1)C=C(C=C2)C=O | C18H10ClNO2
